US07960552B2
To a water bath-cooled solution of 2,6-dichlorobenzaldehyde oxime (2.20 g, 11.6 mmol) in N,N-dimethylformamide (7 mL) was added solid N-chlorosuccinimide (1.55 g, 11.6 mmol). The solution was stirred while in the water bath for approximately 20 min and outside the bath for approximately 1 hr. The solution was poured into water and extracted twice with ether. The combined organic layers containing the crude imidoyl chloride were dried over magnesium sulfate and then concentrated. To a separate solution of ethyl 3-cyclobutyl-3-oxopropanoate (2.37 g, 13.9 mmol) in THF (3 mL) at 0° C. was added sodium ethoxide (25 wt % in ethanol, 4.36 mL, 13.9 mmol). The solution was stirred for a few minutes and then the above imidoyl chloride was added. The solution was stirred at 0° C. for 10 minutes and then at ambient temperature overnight. The solution was poured into water and extracted three times with ethyl acetate. The combined organic layers were dried over magnesium sulfate, concentrated and purified by chromatography (silica gel, 0-5% ethyl acetate in hexanes gradient elution) to afford ethyl 5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolecarboxylate (1.52 g, 38%). 1H-NMR (400 MHz, DMSO-d6) δ 7.63-7.53 (m, 3H), 4.29-4.20 (m, 1H), 4.02 (q, J=7 Hz, 2H), 2.43-2.36 (m, 4H), 2.15-2.06 (m, 1H), 1.97-1.89 (m, 1H), 0.94 (t, J=7 Hz, 3H).

reactant | 2,6-dichlorobenzaldehyde oxime | 11.6 mmol, 2.20 g | ClC1=C(C=NO)C(=CC=C1)Cl | C7H5Cl2NO
reactant | N-chlorosuccinimide | 11.6 mmol, 1.55 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | ethyl 3-cyclobutyl-3-oxopropanoate | 13.9 mmol, 2.37 g | C1(CCC1)C(CC(=O)OCC)=O | C9H14O3
reactant | sodium ethoxide | 13.9 mmol, 4.36 mL | [O-]CC.[Na+]
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | ethyl 5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolecarboxylate | 1.52 g, 38% | C1(CCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)C(=O)OCC | C16H15Cl2NO3
